US05053408
1-Chloro-3-(4-methoxyphenylthio)propane
With stirring at room temperature, 5.6 g (39.9 mmols) of 4-methoxythiophenol was added by small portions to 20 ml of a solution of 0.98 g (40.8 mmols) of sodium hydride in dimethylformamide. The solution was dropwise added to 40 ml of a solution of 6.3 g (40.0 mmols) of 1-bromo-3-chloropropane in dimethylformamide with stirring under ice cooling. The mixture was stirred under ice cooling for further an hour. After the reaction, an aqueous saturated sodium bicarbonate solution was added to the mixture followed by extraction of the solution with ethyl acetate 3 times. The ethyl acetate layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform) to afford 7.8 g (yield: 90%) of the title compound.

reactant | 4-methoxythiophenol | 39.9 mmols, 5.6 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | sodium hydride | 40.8 mmols, 0.98 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 40.0 mmols, 6.3 g | BrCCCCl | C3H6BrCl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Chloro-3-(4-methoxyphenylthio)propane | 7.8 g, yield: 90% | ClCCCSC1=CC=C(C=C1)OC | C10H13ClOS
